US09422285B2
rac-2-[(Diphenylmethylene)amino]-5-fluoropentanonitrile
18 g (81.72 mmol) of [(diphenylmethylene)amino]acetonitrile were initially charged in 500 ml of abs. THF, and 39.22 ml (98.06 mmol) of n-butyllithium (2.5 N in hexane) were added at −78° C. under argon, and the mixture was stirred at −78° C. for a further 15 min. Subsequently, the reaction solution was warmed up to 0° C. and 16.9 g (89.89 mmol) of 1-fluoro-3-iodopropane were added dropwise to the reaction solution, which was stirred at 0° C. for a further 15 min. The reaction solution was quenched with water at 0° C., ethyl acetate was added and the mixture was washed with saturated aqueous sodium chloride solution. The aqueous phase was reextracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated by rotary evaporation. The residue was purified by means of silica gel chromatography (eluent: 100% toluene, post-purification with dichloromethane/cyclohexane=1/1 to 2/1). A total of 16.73 g of the target compound (73% of theory) were obtained.

reactant | [(diphenylmethylene)amino]acetonitrile | 81.72 mmol, 18 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NCC#N | C15H12N2
reactant | n-butyllithium | 98.06 mmol, 2.5 N, 39.22 ml | C(CCC)[Li]
reactant | 1-fluoro-3-iodopropane | 89.89 mmol, 16.9 g | FCCCI | C3H6FI
solvent | THF | C1CCOC1 | C4H8O
product | rac-2-[(Diphenylmethylene)amino]-5-fluoropentanonitrile | 16.73 g, 73% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C#N)CCCF | C18H17FN2
